US08937092B2
To a stirred solution of (2-chloro-6-(trifluoromethyl)pyridin-3-yl)methanamine (2.9 g, 13.8 mmol) and 2-(3-fluoro-4-(methylsulfonamidomethyl)phenyl)propanoic acid (3.8 g, 13.8 mmol) in tetrahydrofuran (100 mL) were added 1-hydroxybenzotriazol (1.89 mL, 13.8 mmol), O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (4.4 g, 13.8 mmol) and N-ethyldiisopropylamine (7 mL, 41.4 mmol) to gave an suspension. After addition of N,N-dimethylformamide (1 mL) the reaction mixture was stirred for 36 h at room temperature. The reaction mixture was concentrated under reduced pressure and the solid obtained was purified by column chromatography (silica gel: 100-200 mesh, eluent: cyclohexane/ethyl acetate 1:2) to afford N-((2-chloro-6-(trifluoromethyl)pyridin-3-yl)methyl)-2-(3-fluoro-4-(methylsulfonamidomethyl)phenyl)propanamide (3.96 g, 61%).

reactant | (2-chloro-6-(trifluoromethyl)pyridin-3-yl)methanamine | 13.8 mmol, 2.9 g | ClC1=NC(=CC=C1CN)C(F)(F)F | C7H6ClF3N2
reactant | 2-(3-fluoro-4-(methylsulfonamidomethyl)phenyl)propanoic acid | 13.8 mmol, 3.8 g | FC=1C=C(C=CC1CNS(=O)(=O)C)C(C(=O)O)C | C11H14FNO4S
reactant | 1-hydroxybenzotriazol | 13.8 mmol, 1.89 mL | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 13.8 mmol, 4.4 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-ethyldiisopropylamine | 41.4 mmol, 7 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-((2-chloro-6-(trifluoromethyl)pyridin-3-yl)methyl)-2-(3-fluoro-4-(methylsulfonamidomethyl)phenyl)propanamide | 3.96 g, 61% | ClC1=NC(=CC=C1CNC(C(C)C1=CC(=C(C=C1)CNS(=O)(=O)C)F)=O)C(F)(F)F | C18H18ClF4N3O3S
